Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Wellbutrin / sertraline / allopurinol / Uloric
 
Attending: ___
 
___ Complaint:
abdominal pain dyspnea
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ female with history of 
myeloproliferative disorder/MDS overlap syndrome on hydrea with
massive splenomegaly and splenic infarcts receiving splenic
radiation, HTN, HLD, DM, COPD, and depression who presents with
abdominal pain and shortness of breath.

She reports acute onset right-sided abdominal pain which started
on ___ afternoon at 3PM. The pain is worse with movement.
She was taking oxycodone without relief. She had no associated
nausea or vomiting. She also notes feeling more short of breath
as well as increased bilateral leg swelling. 

She initially presented to ___. Vitals were Temp 98.2, 
BP
97/45, HR 94, RR 28, and O2 sat 94% on 3L. Labs were notable for
WBC 86.6, H/H 7.9/26.7, Plt 26, NA 137, K 3.9, BUN/Cr ___,
LFTs/lipase wnl, trop < 0.01, BNP 1250, and lactate 1.0. CTA
torso was negative for PE but showed new 5.9 cm splenic infarct
at the anterior portion of the spleen and bilateral pleural
effusions which have increased in size. Patient was given
morphine 4mg IV x 2, Tylenol 1g IV, and 500cc NS. She was
transferred to ___ ED for further management.

On arrival to the ED, initial vitals were 97.8 92 116/57 26 95%
3L. Exam was notable for no acute distress, bilateral rales 
lower
lung fields and saturating well and speaking full sentences, no
pedal edema, distended non-tender abdomen with massive
splenomegaly. No labs done. No imaging obtained. No medications
given. ___ was consulted and recommended admission. Prior to
transfer vitals were 97.7 86 109/53 18 97% 3L.

On arrival to the floor, patient reports abdominal pain is
improved, currently rating ___. She denies fevers/chills, night
sweats, headache, vision changes, dizziness/lightheadedness,
weakness/numbness, cough, hemoptysis, chest pain, palpitations,
nausea/vomiting, diarrhea, hematemesis, hematochezia/melena,
dysuria, hematuria, and new rashes.
 
Past Medical History:
- ___: Her white blood cell count was 38,000, 
differential showed immature myeloid forms. There was mild 
basophilia and hypersegmented neutrophils. The remainder of her 
CBC was unremarkable. The CBC was repeated and the results are 
similar and an urgent referral to Hematology was placed.  
- ___: First hematology visit. Presentation 
initially appeared consistent with chronic phase CML. However, 
the BCR-ABL PCR and the JAK2 mutation analysis were negative.  
- ___: Bone marrow Bx which showed markedly 
hypercellualrl marrow for age with trilenage hematopoiesis with 
increased megas, 0% blasts, concerning for MPN. Cytogenetics 
showed a ___ female karyotype and the FISH MDS panel was 
negative for the common cytogenetic abnormalities observed  
within myelodysplastic syndrome. There was no FISH evidence of 
BCR-ABL gene rearrangement. Flow cytometry was performed, which 
showed a 1% subset of blasts, that expressed CD34, CD33, HLA-TR 
and lacked CD19, CD14, and CD56. Additional testing for SETBP1 
and CSF3R were negative, these are mutations sometimes seen with 
atypical CML and also chronic neutrophilic leukemia. As she was 
symptomatic, she was put on hydrea 500 mg daily and allopurinol.
- ___: Underwent eye surgery. The following day, she 
developed diarrhea and rash. 
- ___: Admitted to ___ and transferred to 
___
on the next day. The patient was in septic shock and admitted to
the MICU. Further workup showedpneumonia. During her
hospitalization, white blood cell count rose to greater than
100,000 and was felt to be consistent with a leukemoid reaction. 
In the hospital, she had a massive upper GI bleed and had a 
bleeding duodenal ulcer that was treated with laser coagulation. 
She was discharged to a rehab facility on ___. She 
started ___ at some point AFTER discharge.
- ___ through ___: She was readmitted to ___
with another massive GI bleed and the duodenal ulcer was found 
to be bleeding again. She was re-treated with thermal 
coagulation and endoclips and then had gastroepiploic 
embolization by interventional radiology. She is transfused 
multiple units of PRBCs. She aspirated and required intubation 
in the ICU and was treated with broad-spectrum antibiotics. 
___ was stopped during this admission.
- ___ by Dr ___ was not feeling well, dehydrated  
and weak. He changed hydrea to 500mg five times per week while 
holding ___.
- ___: Referred to Dr. ___. There was concern for 
transformation to acute leukemia and presence of tumor lysis was 
recommended patient be admitted for urgent bone marrow biopsy 
and possible induction chemotherapy. ___ had a long planned 
trip to CA and declined admission.  
- ___: Repeat bone marrow bx by Dr. ___ dry tap no 
aspirate obtained. peripheral blasts 2%. BM core markedly 
hypercellular (90-100%) myeloid predominant c/w known 
myeloproliferative neoplasm. Normal myeloid maturation and no 
morphologic evidence of transformation. CD34 stain highlights 
rare scattered cells representing <5% cellularity.
- ___ through ___: Did well on hydrea monotherapy
- ___: WBC increased from 29 to 61 with 7% blasts. Sent to 
ED for CTA chest for elevated DDimer but negative. 
- ___: Repeat marrow overall unchanged, with 1% blasts and 
negative cytogenetics/FISH workup. Myeloid sequencing = SRSF2 
inframe insertion R94dup; CRLF2 exon 3 frameshift deletion 
F107fs; KRAS A146V; RUNX1 L161P; and CUX1 exon 12 splice  
acceptor loss. 
- ___: Seen by ___ team (Dr. ___, recommended HMA
- ___: Started C1D1 Vidaza

Myeloproliferative disorder  
Hypertension 
Diabetes mellitus type 2 
COPD 
Hypothyroidism 
Hypercholesterolemia 
Depression 
___ 
breast cancer s/p lumpectomy and adjuvant radiation
 
Social History:
___
Family History:
Mother died at ___ from cardiac disease. 
Father died at ___ from CAD, had h/o CVA at ___. 
Sister died of CAD in ___. 
No significant family history of malignancy.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: Temp 97.9, BP 115/66, HR 87, RR 32, O2 sat 95% on 2.5L.
GENERAL: Pleasant woman, in no distress, lying in bed
comfortably.
HEENT: Anicteric, PERLL, OP clear.
CARDIAC: RRR, normal s1/s2, no m/r/g.
LUNG: Appears short of breath with any movements, bibasilar
inspiratory crackles.
ABD: Soft, spleen palpable, non-tender to , positive bowel
sounds.
EXT: Warm, well perfused, no lower extremity edema, erythema or
tenderness.
NEURO: A&Ox3, good attention and linear thought, CN II-XII
intact. Strength full throughout. Sensation to light touch
intact.
SKIN: No significant rashes.

DISCHARGE PHYSICAL EXAM:
VSS
GENERAL: Pleasant woman, in no distress, lying in bed
comfortably.
HEENT: Anicteric, PERLL, OP clear.
CARDIAC: RRR, normal s1/s2, no m/r/g.
LUNG: Appears short of breath with any movements, bibasilar
inspiratory crackles.
ABD: Soft, spleen palpable, non-tender to , positive bowel
sounds.
EXT: Warm, well perfused, no lower extremity edema, erythema or
tenderness.
NEURO: A&Ox3, good attention and linear thought, CN II-XII
intact. Strength full throughout. Sensation to light touch
intact.
SKIN: No significant rashes.
 
Pertinent Results:
ADMISSION LABS:

___ 02:20AM BLOOD WBC-62.0* RBC-2.24* Hgb-7.4* Hct-25.3* 
MCV-113* MCH-33.0* MCHC-29.2* RDW-22.4* RDWSD-89.2* Plt Ct-23*
___ 02:20AM BLOOD Neuts-67 Bands-5 Lymphs-3* Monos-24* 
Eos-0 Baso-0 ___ Myelos-1* AbsNeut-44.64* 
AbsLymp-1.86 AbsMono-14.88* AbsEos-0.00* AbsBaso-0.00*
___ 02:20AM BLOOD Plt Smr-VERY LOW* Plt Ct-23*
___ 02:20AM BLOOD ___ PTT-28.8 ___
___ 02:20AM BLOOD Glucose-90 UreaN-19 Creat-1.2* Na-139 
K-4.0 Cl-102 HCO3-20* AnGap-17
___ 02:20AM BLOOD ALT-7 AST-27 LD(LDH)-981* AlkPhos-61 
TotBili-0.4
___ 02:20AM BLOOD Albumin-3.4* Calcium-7.7* Phos-6.6* 
Mg-1.9 UricAcd-13.8*

DISCHARGE LABS:

___ 07:45AM BLOOD WBC-12.1* RBC-2.35* Hgb-7.5* Hct-26.1* 
MCV-111* MCH-31.9 MCHC-28.7* RDW-23.1* RDWSD-91.5* Plt Ct-40*
___ 07:45AM BLOOD Neuts-68 Bands-2 Lymphs-4* Monos-9 Eos-2 
Baso-14* ___ Metas-1* Myelos-0 NRBC-1* AbsNeut-8.47* 
AbsLymp-0.48* AbsMono-1.09* AbsEos-0.24 AbsBaso-1.69*
___ 07:45AM BLOOD Glucose-94 UreaN-19 Creat-0.7 Na-144 
K-4.2 Cl-107 HCO3-24 AnGap-13
___ 07:45AM BLOOD ALT-8 AST-17 LD(LDH)-479* AlkPhos-51 
TotBili-0.5
___ 07:45AM BLOOD Albumin-3.1* Calcium-7.7* Phos-3.8 Mg-1.9 
UricAcd-6.6*
 
Brief Hospital Course:
Ms. ___ is a ___ female
with history of myeloproliferative disorder/MDS overlap syndrome
on hydrea with massive splenomegaly and splenic infarcts
receiving splenic radiation who presents with abdominal pain and
shortness of breath.

#Acute Hypoxic Respiratory Failure:
#Acute on Chronic Diastolic Heart Failure: Improved symptoms
overall. Likely component of pulmonary edema from diastolic 
heart
failure. Weight on admission up from recent discharge (approx.
4kg up) but now improved, near baseline as of ___. Recent TTE
showed normal systolic function. She also has baseline COPD. CTA
was negative for PE at ___. She also has small bilateral
pleural effusions and atelectasis.
-increased home Lasix from 20mg once daily to 20mg BID
-Wean O2 as tolerated as patient has never been hypoxic and she
would not qualify for home O2. Can try small amount of benzo as
needed for anxiety around SOB so will start 0.25mg PO of
clonazepam q8hr prn and continue outpatient 
-Duonebs PRN
-Patient scheduled to see Cardiology outpatient and ___, 
rescheduled for f/u with Dr. ___ on ___ and cardiology on 
___

#Cancer-Related Abdominal Pain: Secondary to splenomegaly and
splenic infarcts. CT showed new infarct without other acute
abdominal process. Abdominal pain improved.
-Pain control with IV morphine and oxycodone
-Consulted XRT-ONC for XRT inhouse, completed ___ treatments,
will finish XRT outpatient in ___

#Tumor Lysis Syndrome: Improved. Uric acid 13.8 on admission 
with
rising LDH, hyperphosphatemia, and ___. Avoiding fluids if able
due to CHF/hypoxia as above, allergy to allopurinol and
fuboxostat therefore not giving.
-Rasburicase 6mg IV x 1 given ___, repeat 3mg IV ___ after
repeat level elevated 
-Trend TLS labs now daily as of ___

#Myeloproliferative Disorder/MDS Overlap: Progressive, currently
on hydrea with splenic radiation. Continues to have splenic
infarcts. 
-continue 1000mg hydrea daily
-Patient continues XRT as above
-Family meeting ___ held discuss goals of care, see
previous notes. will continue current treatments and consider
bridge to hospice.
-had PICC placed on ___ for supportive measures and will go 
home with this for better access with plan to start decitabine 
on ___

#Acute Kidney Injury: Improved. Cr 1.2 on admission, baseline Cr
0.9-1.1. Concern for TLS as above.
-Trend Cr daily
-Renally dose and avoid nephrotoxic medications
-Rasburicase as above
-Hold IVF given respiratory status

#UTI: Patient on ciprofloxacin 7-day course (started ___ for 
UTI
diagnosed as outpatient will continue now as ppx measure due to
foley placement
-repeat u culture from ___ in ___ showing mixed flora so 
will
repeat in-house neg, foley d/c, d/c cipro prior to discharge

#Anemia/Thrombocytopenia: Secondary to malignancy.
-Trend CBC daily
-Active T&S
-Transfuse Hb<7, plt<10
-Received 1U PRBCs ___ over 4 hours followed by lasix

#Hypothyroidism: Continue home levothyroxine

#Hypertension
#Hyperlipidemia
-Continue simvastatin

#COPD: Continue home Spiriva

#Type II Diabetes Mellitus
-Hold home metformin
-Humalog ISS

#Psych: Continue home Lexapro

CORE MEASURES:
===============
FEN: Cardiac Diet, Replete Electrolytes PRN
ACCESS: ___ - will go home with 
CODE: DNR/DNI(confirmed with patient)
COMMUNICATION: Patient
EMERGENCY CONTACT HCP: ___ (niece) ___
DISPO: home with services
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Escitalopram Oxalate 5 mg PO DAILY 
2. Levothyroxine Sodium 88 mcg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Pantoprazole 40 mg PO Q24H 
5. Simvastatin 5 mg PO 3X/WEEK (___) 
6. Tiotropium Bromide 1 CAP IH DAILY 
7. Vitamin D ___ UNIT PO DAILY 
8. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY 
9. MetFORMIN (Glucophage) 850 mg PO DAILY 
10. Hydroxyurea 1000 mg PO DAILY 
11. OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - 
Moderate 
12. Furosemide 20 mg PO DAILY 
13. Ciprofloxacin HCl 250 mg PO Q12H 

 
Discharge Medications:
1.  ClonazePAM 0.25 mg PO Q8H:PRN sob, anxiety 
RX *clonazepam 0.25 mg 1 tablet(s) by mouth every 8 hours as 
needed Disp #*30 Tablet Refills:*0 
2.  Furosemide 20 mg PO BID  
3.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY  
4.  Escitalopram Oxalate 5 mg PO DAILY  
5.  Hydroxyurea 1000 mg PO DAILY  
6.  Levothyroxine Sodium 88 mcg PO DAILY  
7.  MetFORMIN (Glucophage) 850 mg PO DAILY  
8.  Multivitamins 1 TAB PO DAILY  
9.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - 
Moderate  
10.  Pantoprazole 40 mg PO Q24H  
11.  Simvastatin 5 mg PO 3X/WEEK (___)  
12.  Tiotropium Bromide 1 CAP IH DAILY  
13.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
==================

MDS/MPD
hypoxia
splenic infarcts

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted due to worsening shortness and breath and 
abdominal pain. This improved with IV Lasix, pain medication, 
and radiation. You will continue follow up with Dr. ___ as 
listed below. Please call in the meantime with any questions or 
concerns.
 
Followup Instructions:
___